US05700816
Preparation of 4,4-difluoro-1-(3-fluoro-4-methoxyphenyl)-butane-1,3-dione
Ethyl difluoroacetate (4.06 g, 32.7 mmol) was dissolved in methyl t-butyl ether (50 mL). To the stirred solution was added 25 weight % sodium methoxide (7.07 g, 32.7 mmol) followed by 3'-fluoro-4'-methoxyacetophenone (5.0 g, 29.7 mmol). After stirring for 16 hours, 1N HCl (50 mL) was added. The organic layer was collected and washed with water (2×50 mL), dried over anhydrous MgSO4, filtered, and added to hexanes to precipitate a tan solid (7.0 g, 96%): mp 70°-72° C.

reactant | Ethyl difluoroacetate | 32.7 mmol, 4.06 g | FC(C(=O)OCC)F | C4H6F2O2
reactant | sodium methoxide | 32.7 mmol, 7.07 g | C[O-].[Na+]
reactant | 3'-fluoro-4'-methoxyacetophenone | 29.7 mmol, 5.0 g | FC=1C=C(C=CC1OC)C(C)=O | C9H9FO2
reactant | HCl | 1N, 50 mL | Cl | ClH
solvent | methyl t-butyl ether | 50 mL | C(C)(C)(C)OC | C5H12O
product | 4,4-difluoro-1-(3-fluoro-4-methoxyphenyl)-butane-1,3-dione | FC(C(CC(=O)C1=CC(=C(C=C1)OC)F)=O)F | C11H9F3O3
